US09315458B2
J) 4-cyano-2-ethenyl-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzoic acid
To a solution of methyl 4-cyano-2-ethenyl-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate (0.70 g) in THF (5.00 mL)-water (5.00 mL) were added lithium hydroxide monohydrate (0.25 g) and methanol (1.00 mL), and the mixture was stirred at 10° C. for 16 hr. The reaction mixture was diluted with water, and the mixture was extracted with tert-butyl methyl ether. The aqueous layer was acidified with 2N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.60 g).

reactant | methyl 4-cyano-2-ethenyl-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate | 0.70 g | C(#N)C1=C(C(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)N1N=CC=C1)C=C)C | C22H19N3O2
reactant | lithium hydroxide monohydrate | 0.25 g | O.[OH-].[Li+]
reactant | methanol | 1.00 mL | CO | CH4O
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | water | 5.00 mL | O | H2O
product | 4-cyano-2-ethenyl-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzoic acid | 0.60 g | C(#N)C1=C(C(=C(C(=O)O)C=C1CC1=CC=C(C=C1)N1N=CC=C1)C=C)C | C21H17N3O2
